Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
intermittent word-finding difficulty
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of focal
epilepsy since childhood who has prsented with recurrent
word-finding difficulties, concerning for ongoing seizures.
Yesterday morning, Ms. ___ felt confused, and had difficulty
reading and writing while typing, and went to the ED to get her
seizure-medication levels checked. She then went home, and then
at 1pm, she had a different seizure type, which included
right-arm flexion and extension of left arm with head deviation
to left and gasping sounds. This was reported by OSH ED, and was
occurring every ___ minutes, lasting just a few seconds at a
time. She received 1mg of lorazepam at OSH, after which her
symptoms resolved. She feels as if she has had word-finding
difficulties since that time.

She reports that her last seizure was 4 months ago, but they
occur with variable frequency.

She has had no recent illnesses, no missed medications.

Keppra level was ___ yesterday morning at OSH.
 
Past Medical History:
seizures as above, since ___
anxiety, depression
s/p appendectomy
s/p hysterectomy in ___
colon polyp

 
Social History:
___
Family History:
no seizures

 
Physical Exam:
===============
ADMISSION EXAM:
===============
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3, but later in exam, said 
that
it was ___. Word-finding difficulties for hospital name.
Throughout exam, fluctuating levels of word-finding 
difficulties.
Difficulty with low-frequency words. Attentive.  Normal prosody.
There were indeed paraphasic errors. Pt was able to name both
high and low frequency objects, but made some mistakes, and then
corrected them.  Able to read without difficulty. Speech was not
dysarthric. Able to follow both midline and appendicular
commands. Pt was NOT able to register 3 objects and recall ___ 
at
5 minutes. There was no evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without mild
end-gaze nystagmus bilaterally. Normal saccades. VFF to
confrontation. Visual acuity ___ bilaterally. Fundoscopic exam
revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements. Mild intention tremor bilaterally.
Left leg in brace.
Full strength in upper and lower extremities throughout.

-Sensory: No deficits to light touch. No extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Mild intention tremor bilaterally. Normal
finger-tap bilaterally. No dysmetria on FNF  bilaterally.

-Gait: Good initiation, but walked with left ankle extended, on
left toe. When she was walking, she began to feel unsteady, and
stated that this is how she feels when she is having a seizure
sometimes her foot does that.

===============
DISCHARGE EXAM:
===============
Vital signs:
24 HR Data (last updated ___ @ 2049)
    Temp: 98.3 (Tm 98.6), BP: 128/69 (121-149/69-77), HR: 72
(72-79), RR: 18 (___), O2 sat: 97% (96-98), O2 delivery: Ra  

General: lying in bed, NAD
CV: warm and well-perfused
Resp: breathing comfortably in room air

Mental status: awake and alert, language is fluent without
paraphasic errors

Cranial nerves: pupils 2.5 -->2 brisk, EOMI without nystagmus,
saccadic pursuit, face symmetric, tongue protrudes midline,
palate elevates symmetrically

Motor: no pronator drift, no asterixis, fine bilateral tremor in
hands, moves ___ equally anti-gravity

Coordination: FNF without dysmetria bilaterally
 
Pertinent Results:
========
IMAGING:
========
CTA head and neck, ___:
1. No acute intracranial abnormality. 
2. No dissection, aneurysm or occlusion of the head neck.  No 
ICA stenosis by NASCET criteria. 
3. Probable old small left subinsular infarct. 

___ MRI WO CONTRAST
Wet Read by ___ on ___ 6:24 ___ 
No acute infarct or other acute intracranial abnormality. 

 
Brief Hospital Course:
___ hx epilepsy since childhood w/ focal dyscognitive 
seizures, who presented with intermittent word-finding 
difficulty and waxing and waning orientation concerning for 
status epilepticus.

Work-up included CT/CTA of the head and neck, which showed an 
old small left subinsular infarct, but no evidence of an acute 
intracranial pathology that would explain the patient's 
symptoms. Brain MRI showed no evidence of acute infarct.

Patient was admitted to the epilepsy service and monitored on 
EEG, which shown left sided slowing with no seizures. She was 
continued on her home Keppra, Lamictal, and Klonopin.

Given the evidence of an old stroke, patient had a basic stroke 
work-up, with hemoglobin A1c 5.3%, TSH 2.1, lipid panel. She was 
continued on her home aspirin 81 mg and pravastatin.

Transitional Issues: 
- PCP follow up in ___ weeks
- Outpatient neurology follow up next available
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.25 mg PO DAILY 
2. ClonazePAM 0.5 mg PO QHS 
3. LamoTRIgine 300 mg PO BID 
4. LevETIRAcetam 1500 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. amLODIPine 5 mg PO BID 
7. Pravastatin 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO BID  
2.  Aspirin 81 mg PO DAILY  
3.  ClonazePAM 0.25 mg PO DAILY  
4.  ClonazePAM 0.5 mg PO QHS  
5.  LamoTRIgine 300 mg PO BID  
6.  LevETIRAcetam 1500 mg PO BID  
7.  Omeprazole 20 mg PO DAILY  
8.  Pravastatin 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the ___ 
after presenting with intermittent word-finding difficulty.

Your work-up included a CT scan of your brain, which did not 
show any evidence of a new stroke or bleed to explain your 
word-finding difficulties. It did show an old small stroke, 
which would not explain your current symptoms. You had a brain 
MRI that showed no evidence of acute infarct. Because of the 
evidence of a prior stroke, we sent blood work to check your 
cholersterol, blood sugar, and thyroid hormone which were 
***(normal/abnormal) you were continued on your home baby 
aspirin and cholesterol medication called pravastatin *** (If 
everything was normal).

You also had EEG monitoring, which showed no evidence of 
seizures. You were continued on your home Keppra, Lamictal, and 
Klonopin. 

After discharge, you should follow up with your out-patient 
neurologist and primary care doctor as instructed below.

It was a pleasure participating in your care.

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___